US05476952
To a solution of 2,3-dihydro-4-bromomethyl-1H-cyclopent[a]-anthracene-6,11-dione (173 mg, 0.51 mmol) in dimethylformamide (10 ml) is added anhydrous potassium acetate (200 mg) at 0° C. and stirred for 2.5 hours. The mixture is diluted with dichloromethane (50mL), washed with H2O, dried (Na2SO4), and evaporated in vacuo to dryness. The residue is chromatographed on a silica gel column (2×30 cm) using toluene/ethyl acetate (9:1 v/v) as the eluent. The main fraction is collected, evaporated, and the solid residue is recrystallized from EtOH to afford 4-acetoxymethyl-2,3-dihydro-1H-cyclopent[a]anthracene-6,11dione, 81 mg (50%), mp 160°-161° C. 1H NMR (CDCl3): δ2.18 (3H, s, Ac), 2.24 (2H, t, J=7.6 Hz, CH2 -2), 2.98 (2H, q, J=7.6 Hz, CH2 -3), 3.53 (2H, t, J=7.6 Hz, CH2 -1), 5.20 (2H, S, CH2 --OAc), 7.76-8.30 (5H, m, Ar--H). The product is used directly in the next step without further purification.

reactant | 2,3-dihydro-4-bromomethyl-1H-cyclopent[a]-anthracene-6,11-dione | 0.51 mmol, 173 mg | BrCC1=C2C(=C3C(C4=CC=CC=C4C(C3=C1)=O)=O)CCC2 | C18H13BrO2
reactant | potassium acetate | 200 mg | C(C)(=O)[O-].[K+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 50mL | ClCCl | CH2Cl2
product | 4-acetoxymethyl-2,3-dihydro-1H-cyclopent[a]anthracene-6,11dione | C(C)(=O)OCC1=C2C(=C3C(C4=CC=CC=C4C(C3=C1)=O)=O)CCC2 | C20H16O4
